US04018794
By replacing in Example 124, methanol with ethanol and 4-benzyl-3-n-butylthio-5-sulfamylbenzoic acid with 4-benzyl-3-benzylthio-5-sulfamylbenzoic acid and following the procedure described, ethyl 4-benzyl-3-benzylthio-5-sulfamylbenzoate is obtained with a melting point of 108°-110° C.

reactant | methanol | CO | CH4O
reactant | 4-benzyl-3-n-butylthio-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)SCCCC | C18H21NO4S2
reactant | 4-benzyl-3-benzylthio-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)SCC1=CC=CC=C1 | C21H19NO4S2
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-benzyl-3-benzylthio-5-sulfamylbenzoate | C(C1=CC=CC=C1)C1=C(C=C(C(=O)OCC)C=C1S(N)(=O)=O)SCC1=CC=CC=C1 | C23H23NO4S2
